US08119655B2
Compound 38: 5-iodo-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido [4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one
In a 2 L round bottom flask, 7-(4-methoxybenzyl)-3-methyl-5-trimethylsilyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one (18.6 g, 47.505 mmol) was suspended in ethanol (1 L) and DCM (150 mL), then cooled in an ice bath. To the cooled mixture was added silver tetrafluoroborate (AgBF4, 10.17 g, 52.255 mmol) and after 15 minutes of stirring, iodine (18.08 g, 71.257 mmol) was added. The reaction was stirred at 0° C. for one hour followed by five hours at ambient temperature. The crude yellow solid was collected by filtration, suspended in 10% wt Na2S2O3 (700 mL) and stirred for 1 h. The solid was collected by filtration and again washed with 10% wt Na2S2O3. The product (light yellow solid) was collected by filtration, washed with water and diethyl ether and dried under high vacuum. The material was taken forward without further purification. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.59 (s, 3 H) 3.81 (s, 3 H) 5.26 (s, 2 H) 6.90 (d, J=8.84 Hz, 2 H) 7.34 (d, J=8.59 Hz, 2 H) 7.44 (s, 1 H) 8.51 (s, 1 H) 8.92 (s, 1 H). ESI-MS: m/z 446.2 (M+H)+.

reactant | 7-(4-methoxybenzyl)-3-methyl-5-trimethylsilyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one | 47.505 mmol, 18.6 g | COC1=CC=C(CN2C(C3=C(C=4C(=NC=C(C4)C)N3)C(=C2)[Si](C)(C)C)=O)C=C1 | C22H25N3O2Si
reactant | iodine | 71.257 mmol, 18.08 g | II | I2
solvent | ethanol | 1 L | C(C)O | C2H6O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | silver tetrafluoroborate | 52.255 mmol, 10.17 g | F[B-](F)(F)F.[Ag+]
product | 5-iodo-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido [4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one | IC1=CN(C(C2=C1C=1C(=NC=C(C1)C)N2)=O)CC2=CC=C(C=C2)OC | C19H16IN3O2
